US08426447B2
A 10-20 mL microwave vial was charged with (S)-3-bromo-7-iodo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (503 mg, 1.098 mmol), pyrimidin-5-ylboronic acid (143 mg, 1.153 mmol), pd(ph3p)4 (127 mg, 0.110 mmol). The vial was flushed with Ar(g), then THF (5489 μL, 1.098 mmol) and potassium carbonate (1.5 M) (1464 μL, 2.195 mmol) (aq. solution) were added in sequence. The vial was sealed and heated at 110° C. for 2 hours. The mixture was diluted with water and extracted with 10% i-PrOH/EtOAc (3×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 100-g SNAP column, eluting with 0-100% of a 90:10:1 mixture of DCM/MeOH/NH4OH in DCM to provide (S)-3-bromo-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as an off-white solid.

reactant | (S)-3-bromo-7-iodo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 1.098 mmol, 503 mg | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)I | C14H9BrIN3O2
reactant | pyrimidin-5-ylboronic acid | 1.153 mmol, 143 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | THF | 1.098 mmol, 5489 μL | C1CCOC1 | C4H8O
reactant | potassium carbonate | 2.195 mmol, 1.5 M, 1464 μL | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | (S)-3-bromo-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=NC1 | C18H12BrN5O2
